US07709527B2
200 mg of 10% Pd—C pre-mixed with 10 mL of methanol was added to a solution of (1R,2R)-1-methyl-2-phenylcarbonyloxypropyl (2S)-2-[(tert-butoxy)carbonylamino]-3-[3,4-bis(phenylmethoxy)phenyl]propanoate (2.6 g, 3.9 mmol) in 40 mL of tetrahydrofuran under a nitrogen atmosphere. The nitrogen was exchanged with hydrogen and the mixture stirred under hydrogen at room temperature for 2 h. After filtration and washing with methanol, the filtrate was concentrated and chromatography (silica gel, 30% ethyl acetate in hexane) of the residue afforded 1.8 g (95% yield) of (1R,2R)-1-methyl-2-phenylcarbonyloxypropyl (2S)-3-(3,4-dihydroxyphenyl)-2-[(tert-butoxy)carbonylamino]propanoate. MS (ESI) m/z 474.31 (M+H)+ and 472.18 (M−H)−.

reactant | methanol | 10 mL | CO | CH4O
reactant | (1R,2R)-1-methyl-2-phenylcarbonyloxypropyl (2S)-2-[(tert-butoxy)carbonylamino]-3-[3,4-bis(phenylmethoxy)phenyl]propanoate | 3.9 mmol, 2.6 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O[C@@H]([C@@H](C)OC(=O)C1=CC=CC=C1)C)CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C39H43NO8
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | (1R,2R)-1-methyl-2-phenylcarbonyloxypropyl (2S)-3-(3,4-dihydroxyphenyl)-2-[(tert-butoxy)carbonylamino]propanoate | 1.8 g, 95% yield | OC=1C=C(C=CC1O)C[C@@H](C(=O)O[C@@H]([C@@H](C)OC(=O)C1=CC=CC=C1)C)NC(=O)OC(C)(C)C | C25H31NO8
